US06133255
Step 3: 5-Benzyloxy-1-[3-(3-bromopyridin-4-yl)propyl]-3-(4-methylthiazol-2-yl)-1H-pyridin-2-one
Prepared by a modification of the procedure reported in Tetrahedron Lett., 1995, 8917. 5-Benzyloxy-3-(4-methylthiazol-2-yl)-1H-pyridin-2-one (3.3 mmol) was dissolved in DMF (5 ml) and DME (20 ml). The reaction mixture was cooled to 0° C. and treated with sodium hydride (3.5 mmol). After 10 min, the reaction mixture was treated with lithium bromide (6.6 mmol) and stirred for 15 min at room temperature. The reaction mixture was treated with a solution of 4-(3-bromopropyl)-3-bromopyridine (5.0 mmol) in DME (5 ml) and then it was heated at 75° C. for 60 h. The reaction mixture was cooled, acidified, and washed with ethyl acetate. The aqueous layer was basified and extracted with ethyl acetate. The organic extracts were dried (MgSO4), filtered, and evaporated in vacuo. Purification by column chromatography gave the product as a yellow foam (2.74 mmol, 82%). δH (250 MHz; CDCl3) 8.65 (1H, s), 8.60 (1H, brd), 8.41 (1H, d, J=7.1), 7.40-7.33 (5H, m), 7.16 (1H, d, J=7.3), 7.03 (1H, s), 7.00 (1H, d, J=4.6), 5.02 (2H, s), 4.13 (2H, t, J=10.4), 2.79-2.72 (2H, m), 2.53 (3H, s), 2.17-2.04 (2H, m).

reactant | 5-Benzyloxy-3-(4-methylthiazol-2-yl)-1H-pyridin-2-one | 3.3 mmol | C(C1=CC=CC=C1)OC=1C=C(C(NC1)=O)C=1SC=C(N1)C | C16H14N2O2S
reactant | sodium hydride | 3.5 mmol | [H-].[Na+]
reactant | lithium bromide | 6.6 mmol | [Br-].[Li+]
reactant | 4-(3-bromopropyl)-3-bromopyridine | 5.0 mmol | BrCCCC1=C(C=NC=C1)Br | C8H9Br2N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DME | 20 ml | COCCOC | C4H10O2
solvent | DME | 5 ml | COCCOC | C4H10O2
product | 5-Benzyloxy-1-[3-(3-bromopyridin-4-yl)propyl]-3-(4-methylthiazol-2-yl)-1H-pyridin-2-one | 2.74 mmol, 82% | C(C1=CC=CC=C1)OC=1C=C(C(N(C1)CCCC1=C(C=NC=C1)Br)=O)C=1SC=C(N1)C | C24H22BrN3O2S
